US07476666B2
Step 5: Ethyl 3-hydroxy-5-methyl-7-(2-methyl-1,3-thiazol-4-yl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of ethyl 3-(benzyloxy)-5-methyl-7-(2-methyl-1,3-thiazol-4-yl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (64 mg, 0.150 mmol) in anhydrous CH2Cl2 at 0° C. was added 2.0M boron tribromide in CH2Cl2 (112 μL, 0.225 mmol). The reaction was stirred at room temperature overnight, and the solvent was removed in vacuo. The resulting residue was dissolved in 0.025M H2SO4 in EtOH (1.2 mL) and heated to reflux overnight. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product as a viscous oil. ES MS (M+H)=337.

reactant | ethyl 3-(benzyloxy)-5-methyl-7-(2-methyl-1,3-thiazol-4-yl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.150 mmol, 64 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C=2N=C(SC2)C)C)=O)C(=O)OCC | C21H22N4O4S
reactant | boron tribromide | 2.0M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.225 mmol, 112 μL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-hydroxy-5-methyl-7-(2-methyl-1,3-thiazol-4-yl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | OC=1C(=NN2C1C(N(CC2C=2N=C(SC2)C)C)=O)C(=O)OCC | C14H16N4O4S
